US08222416B2
A solution of 2-(1-(3-methoxy-phenyl)-3-methyl-but-1-enyl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (1.87 g, 4.3 mmol) in ethanol (38.7 mL) and tetrahydrofuran (77.4 mL) was treated with an aqueous sodium hydroxide solution (10%, 14.6 mL). The reaction was stirred at 70° C. for 18 h. After cooling to 25° C., the reaction mixture was diluted with water (70 mL) and extracted with ethyl acetate (3×60 mL). The organic extracts were dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Silica gel column chromatography (30 g, petroleum ether/ethyl acetate 10:1) afforded 2-(1-(3-methoxy-phenyl)-3-methyl-but-1-enyl)-1H-pyrrolo[2,3-b]pyridine (1.05 g, 90%) as a yellow oil: 1H NMR (300 MHz, CDCl3) δ ppm 9.91 (s, 1H), 7.95 (dd, 1H, J1=3.6 Hz, J2=1.2 Hz), 7.89 (dd, 1H, J1=7.8 Hz, J2=1.2 Hz), 7.23 (t, 1H, J=7.8 Hz), 7.02 (s, 1H), 6.92-6.82 (m, 3H), 6.50 (s, 1H), 5.99 (d, 1H, J=9.9 Hz), 3.76 (s, 3H), 2.94-2.91 (m, 1H), 1.11 (s, 3H), 1.09 (s, 3H).

reactant | 2-(1-(3-methoxy-phenyl)-3-methyl-but-1-enyl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 4.3 mmol, 1.87 g | COC=1C=C(C=CC1)C(=CC(C)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=CC=C1 | C25H24N2O3S
reactant | sodium hydroxide | 14.6 mL | [OH-].[Na+]
solvent | ethanol | 38.7 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 77.4 mL | O1CCCC1 | C4H8O
solvent | water | 70 mL | O | H2O
product | 2-(1-(3-methoxy-phenyl)-3-methyl-but-1-enyl)-1H-pyrrolo[2,3-b]pyridine | 1.05 g, 90% | COC=1C=C(C=CC1)C(=CC(C)C)C1=CC=2C(=NC=CC2)N1 | C19H20N2O
